US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-N′-[(5-isoquinolyl)sulfonyl]-1,3-propylenediamine (Intermediate 1)
A solution of N-(tert-butoxycarbonyl)-1,3-propylenediamine (2.09 g, Tokyo Kasei Kogyo) and triethylamine (3.4 ml, Tokyo Kasei Kogyo) in dichloromethane (20 ml) was added with a solution of isoquinoline-5-sulfonyl chloride (2.73 g, prepared according to Japanese Patent Unexamined Publication (Kokai) No. 61-227581) in dichloromethane (15 ml) with stirring and ice cooling and stirred at room temperature for 14 hours and 30 minutes. The reaction mixture was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine. The organic layer was dried, and then the solvent was evaporated under reduced pressure. Then, the residue was purified by flash column chromatography (chloroform:methanol=50:1) to obtain the title compound (4 g).

reactant | N-(tert-butoxycarbonyl)-1,3-propylenediamine | 2.09 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | isoquinoline-5-sulfonyl chloride | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N′-[(5-isoquinolyl)sulfonyl]-1,3-propylenediamine | 4 g | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C2C=CN=CC2=CC=C1 | C17H23N3O4S
